US04940703
(c) 5-Nitro-1H-indole-3-carbonitrile
5-Nitro-1H-indole-3-carboxamide (2.0 g) was suspended in dry dioxane (100 ml) containing triethylamine (7.8 g). Trifluoroacetic anhydride (8.2 g) was added dropwise with the temperature of the solution maintained at less than 5° C., the reaction was then allowed to warm to room temperature overnight. The reaction mixture was diluted with dichloromethane (200 ml), washed with water (3×100 ml), dried (MgSO4) and the solvent removed. Recrystallisation of the residue from ethyl acetate/hexane afforded the title compound (840 mg), m.p. 186°-190° C. δH (360 MHz, CDCl3) 7.58 (1H, d, J=7.2 Hz, H-7), 7.94 (1H, d, J=1.0 Hz, H-4), 8.16 (1H, dd, J=7.2, 1.0 Hz, H-6), 8.63 (1H, s, H-2); m/z 187 (M+, 100), 157 (45), 141 (95 ), 129 (30), 114 (55), 102 (10), 87 (20 ).

reactant | 5-Nitro-1H-indole-3-carboxamide | 2.0 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C(=O)N | C9H7N3O3
reactant | triethylamine | 7.8 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 8.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-Nitro-1H-indole-3-carbonitrile | 840 mg | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C#N | C9H5N3O2
